US08067611B2
c) Preparation of methyl[5-(4-chlorophenyl)-3-methyl-1-(3-methylisothiazol-5-yl)-1H-pyrazol-4-yl]acetate
0.301 g (2.0 mmol) of 5-hydrazinyl-3-methylisothiazole and 0.099 ml (2.0 mmol) of concentrated sulfuric acid were added to 0.500 g (2.0 mmol) of methyl 3-[(4-chlorophenyl)carbonyl]-4-oxopentanoate in 10.00 ml of methanol, and the mixture was stirred under reflux for 6 hours. The mixture was poured into water and extracted with ethyl acetate.

reactant | 5-hydrazinyl-3-methylisothiazole | 2.0 mmol, 0.301 g | N(N)C1=CC(=NS1)C | C4H7N3S
reactant | sulfuric acid | 2.0 mmol, 0.099 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 3-[(4-chlorophenyl)carbonyl]-4-oxopentanoate | 2.0 mmol, 0.500 g | ClC1=CC=C(C=C1)C(=O)C(CC(=O)OC)C(C)=O | C13H13ClO4
reactant | water | O | H2O
solvent | methanol | 10.00 ml | CO | CH4O
product | methyl[5-(4-chlorophenyl)-3-methyl-1-(3-methylisothiazol-5-yl)-1H-pyrazol-4-yl]acetate | COC(CC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=CC(=NS1)C)C)=O | C17H16ClN3O2S
